US04079148
The addition of 40 ppm of β,β-dichloro-β-cyano-ethyl-phenyl-sulphone or α-chloro-β-phenylsulphonyl-acrylonitrile to a back water sample, from a paper factory, which contained 9.3 × 107 germs (predominantly slime-forming organisms) per ml, caused complete destruction of the germs within 2 to 5 hours, whilst even 70 ppm of β-chloro-β-cyano-ethyl-phenyl-sulphone only gave a reduction to 2.5 × 107 germs per ml.

reactant | β,β-dichloro-β-cyano-ethyl-phenyl-sulphone | ClC(CC1=C(C=CC=C1)S(=O)(=O)C1=C(C=CC=C1)CC(Cl)(Cl)C#N)(C#N)Cl | C18H12Cl4N2O2S
reactant | α-chloro-β-phenylsulphonyl-acrylonitrile | ClC(C#N)=CS(=O)(=O)C1=CC=CC=C1 | C9H6ClNO2S
solvent | water | O | H2O
product | β-chloro-β-cyano-ethyl-phenyl-sulphone | ClC(CC1=C(C=CC=C1)S(=O)(=O)C1=C(C=CC=C1)CC(Cl)C#N)C#N | C18H14Cl2N2O2S
